* OPA2994
************************************************************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.     
************************************************************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
************************************************************************************************************************
* Released by: Jerry M
* Date: 01/12/2024
* Part: OPA2994
*
* Top Level Model: OPA2994
* Model Verison: A
*
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT OPA2994 INM INP OUT VCC VEE
****************************************
* Models
.MODEL R_NOISELESS RES (T_ABS=-273.15)
****************************************
* Components
C_C_CMN MID ESDN .5P 
C_C_CMP ESDP MID .5P 
C_C_CMP1 MID N886175 1F 
C_C_DIFF ESDN ESDP 1P 
C_C_VCLP VCLP MID 100P 
C_C_VIMON MID VIMON 1N 
C_C_VOUT_S MID VOUT_S 1P 
C_C1 N818555 N818545 6.631E-12 
C_C1A2 N889526 N889530 9.346E-09 
C_C1C2 N1198865 N1198875 1.326E-11 
C_C2 MID N1086500 4.5E-15 
C_C17 MID N1151473 1E-12 
C_C18 MID N1151693 1E-12 
C_C19 MID SW_OL 100P 
C_C33 N859270 0 1E-15 
C_C34 N859098 0 200N 
C_C35 N859308 0 1E-15 
C_C36 N818503 N818493 5.305P 
C_C37 N818511 N818519 5.305P 
C_C38 MID N1171877 1F 
C_C39 N1172257 MID 1F 
C_C40 MID N1171845 1F 
C_C41 N1172239 MID 1F 
C_C42 MID N1171595 1F 
C_C43 MID N1172617 1F 
C_C44 MID N1172387 1F 
C_C45 N1172733 MID 1F 
C_C46 MID N1172235 1F 
C_C49 MID CLAMP 24.3E-11 
E_E2 N880139 MID CL_CLAMP MID 1
E_E3 N900123 MID OUT MID 1
E_E6 MID 0 N859098 0 1
G_G10 N1151629 MID N1151551 MID -1
G_G11 N1151645 MID N1151565 MID -1
G_G12 VSENSE MID CLAMP MID -1M
G_G15 CLAW_CLAMP MID N1086500 MID -1E-3
G_G16 CL_CLAMP MID CLAW_CLAMP MID -1E-3
G_G21 N889526 MID CL_CLAMP N900261 -2.642E+01
G_G22 N1198865 MID N889530 MID -5.833
G_G36 VCC_B 0 VCC 0 -1
G_G37 VEE_B 0 VEE 0 -1
G_G54 N1086500 MID N1117862 MID -1U
G_G58 N818545 MID ESDP MID -4.157E-2
G_G60 N819355 N819347 N818555 MID -1M
G_G61 N819339 N819331 N818511 N818503 -1M
G_G62 N818493 MID VEE_B MID -9.342E-01
G_G63 N818519 MID VCC_B MID -9.342E-01
G_G64 VEE_CLP MID N1172617 MID -1M
G_G65 VCC_CLP MID N1171595 MID -1M
G_G66 N1117862 MID VSENSE MID -1M
I_I_B N856591 MID DC -400N
I_I_OS ESDN MID DC -407N
I_I_Q VCC VEE DC 1.35M
R_R_VCLP N880139 VCLP R_NOISELESS 100 
R_R_VIMON VIMON N900095 R_NOISELESS 100 
R_R_VOUT_S VOUT_S N900123 R_NOISELESS 100 
R_R1 ESDP INP R_NOISELESS 10M 
R_R1A2 N889530 N889526 R_NOISELESS 10K 
R_R1C2 N1198875 N1198865 R_NOISELESS 10K 
R_R2 ESDN INM R_NOISELESS 10M 
R_R2A2 MID N889530 R_NOISELESS 3.933E+02 
R_R2C2 MID N1198875 R_NOISELESS 2.069E+03 
R_R3 MID ESDP R_NOISELESS 1T 
R_R4 ESDN MID R_NOISELESS 1T 
R_R9 N819355 N819331 R_NOISELESS 1E-3 
R_R10 ESDN N856831 R_NOISELESS 1E-3 
R_R25 MID N819892 R_NOISELESS 1T 
R_R26 N819794 MID R_NOISELESS 1T 
R_R47 MID N1151629 R_NOISELESS 1 
R_R48 MID N1151645 R_NOISELESS 1 
R_R56 N1151473 OLP R_NOISELESS 100 
R_R57 N1151693 OLN R_NOISELESS 100 
R_R58 N1151571 MID R_NOISELESS 1 
R_R59 N1151571 SW_OL R_NOISELESS 100 
R_R60 MID N879387 R_NOISELESS 1E6 
R_R61 MID CLAMP R_NOISELESS 1E6 
R_R62 MID VSENSE R_NOISELESS 1K 
R_R65 MID CLAW_CLAMP R_NOISELESS 1E3 
R_R66 MID CL_CLAMP R_NOISELESS 1E3 
R_R81 MID N900095 R_NOISELESS 1E9 
R_R83 MID N900123 R_NOISELESS 1E9 
R_R107 VCC_B 0 R_NOISELESS 1 
R_R108 N859098 0 R_NOISELESS 1E12 
R_R109 VEE_B 0 R_NOISELESS 1 
R_R110 VCC_B N859270 R_NOISELESS 1E-3 
R_R111 N859270 N859098 R_NOISELESS 1E6 
R_R112 N859098 N859308 R_NOISELESS 1E6 
R_R113 N859308 VEE_B R_NOISELESS 1E-3 
R_R134 N1086500 MID R_NOISELESS 1MEG 
R_R141 N818545 MID R_NOISELESS 1 
R_R142 N818545 N818555 R_NOISELESS 100MEG 
R_R143 MID N818555 R_NOISELESS 4.8E3 
R_R145 N819355 N819347 R_NOISELESS 1K 
R_R146 N819339 N819331 R_NOISELESS 1K 
R_R147 N818493 N818503 R_NOISELESS 100MEG 
R_R148 N818493 MID R_NOISELESS 1 
R_R149 MID N818503 R_NOISELESS 7.500E+02 
R_R150 N818519 N818511 R_NOISELESS 100MEG 
R_R151 N818519 MID R_NOISELESS 1 
R_R152 MID N818511 R_NOISELESS 7.500E+02 
R_R153 N882981 MID R_NOISELESS 1 
R_R154 N882981 N886175 R_NOISELESS 1M 
R_R155 N1172353 N1172257 R_NOISELESS 1M 
R_R156 N1172353 MID R_NOISELESS 1 
R_R157 N1171849 N1171877 R_NOISELESS 1M 
R_R158 N1171849 MID R_NOISELESS 1 
R_R159 N1171567 MID R_NOISELESS 1T 
R_R160 N1172821 MID R_NOISELESS 1T 
R_R162 N1171817 MID R_NOISELESS 1 
R_R163 N1171817 N1171845 R_NOISELESS 1M 
R_R164 N1172335 N1172239 R_NOISELESS 1M 
R_R165 N1172335 MID R_NOISELESS 1 
R_R166 N1171725 VCC_B R_NOISELESS 1K 
R_R167 N1171725 N1171595 R_NOISELESS 1M 
R_R168 N1172459 VEE_B R_NOISELESS 1K 
R_R169 N1172459 N1172617 R_NOISELESS 1M 
R_R170 VEE_CLP MID R_NOISELESS 1K 
R_R171 MID VCC_CLP R_NOISELESS 1K 
R_R172 MID VCC_CLP R_NOISELESS 1G 
R_R173 MID VEE_CLP R_NOISELESS 1G 
R_R174 N1171937 MID R_NOISELESS 1T 
R_R175 N1172207 MID R_NOISELESS 1 
R_R176 VSENSE N1172387 R_NOISELESS 1M 
R_R177 N1172857 N1172733 R_NOISELESS 1M 
R_R178 N1172857 MID R_NOISELESS 1 
R_R179 N1173067 MID R_NOISELESS 1T 
R_R180 N1172207 N1172235 R_NOISELESS 1M 
R_R182 MID N1117862 R_NOISELESS 1K 
R_R183 MID N889526 R_NOISELESS 1 
R_R184 MID N1198865 R_NOISELESS 1 
R_R185 MID N1198923 R_NOISELESS 1 
R_R186 N1208416 ESDN R_NOISELESS 100 
R_R187 ESDP N1208528 R_NOISELESS 100 
R_RDUMMY2 MID N900261 R_NOISELESS 6.62E+04 
R_RX2 N900261 N1198923 R_NOISELESS 6.62E+05 
V_V_ORN N1151551 VCLP -3.6
V_V_ORP N1151565 VCLP 3.6
V_V1 N1171567 MID 125
V_V2 N1172821 MID -125
V_V3 N1171937 MID 900
V_V4 N1173067 MID -900
V_VCM_MAX N819794 VCC_B 0.1
V_VCM_MIN N819892 VEE_B -0.1
V_VOS N819347 N856591 130U
X_H1 N1151629 N1151633 OLN MID LOWER_LEVEL_H1_OPA2994
X_H2 N1151645 N1151639 OLP MID LOWER_LEVEL_H2_OPA2994
X_H3 OUT N900261 N900095 MID LOWER_LEVEL_H3_OPA2994
X_S2 SW_OL MID N889526 N889530 LOWER_LEVEL_S2_OPA2994
X_S3 OUT VCC OUT VCC LOWER_LEVEL_S3_OPA2994
X_S4 VEE OUT VEE OUT LOWER_LEVEL_S4_OPA2994
X_S5 CLAMP N1151639 CLAMP N1151639 LOWER_LEVEL_S5_OPA2994
X_S6 N1151633 CLAMP N1151633 CLAMP LOWER_LEVEL_S6_OPA2994
X_S7 ESDN VCC ESDN VCC LOWER_LEVEL_S7_OPA2994
X_S8 VEE ESDN VEE ESDN LOWER_LEVEL_S8_OPA2994
X_S9 ESDP VCC ESDP VCC LOWER_LEVEL_S9_OPA2994
X_S10 VEE ESDP VEE ESDP LOWER_LEVEL_S10_OPA2994
X_S11 N1208528 N1208416 N1208528 N1208416 LOWER_LEVEL_S11_OPA2994
X_S12 N1208416 N1208528 N1208416 N1208528 LOWER_LEVEL_S12_OPA2994
X_U1 ESDP N856591 VNSE_OPA2994
X_U2 MID ESDN FEMT_OPA2994
X_U3 MID N856591 FEMT_OPA2994
X_U4 N819339 MID N882981 MID N819794 N819892 VCM_CLAMP_OPA2994
X_U5 N886175 N856831 MID N879387 AOL_1_OPA2994
X_U6 N879387 MID MID CLAMP AOL_2_OPA2994
X_U7 MID N1151571 N1151693 N1151473 OL_SENSE_OPA2994
X_U8 N1171567 N1172821 VIMON MID N1171849 N1172353 CLAMP_AMP_LO_OPA2994
X_U9 N1171877 N1172257 CL_CLAMP MID CL_SRC_OPA2994
X_U10 N1198875 MID MID N1198923 ZO_SRC_OPA2994
X_U11 VCC_CLP VEE_CLP VOUT_S MID N1171817 N1172335 CLAMP_AMP_LO_OPA2994
X_U13 VIMON MID N1171725 VCC_B CLAWP_OPA2994
X_U14 MID VIMON VEE_B N1172459 CLAWN_OPA2994
X_U15 N1171937 N1173067 N1172387 MID N1172207 N1172857 CLAMP_AMP_HI_OPA2994
X_U16 N1172235 N1172733 CLAMP MID GR_SRC_OPA2994
X_U17 N1171845 N1172239 CLAW_CLAMP MID CLAW_SRC_OPA2994
X_U18 VIMON MID MID VCC IQ_SRC_OPA2994
X_U19 MID VIMON VEE MID IQ_SRC_OPA2994
.ENDS OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT AOL_1_OPA2994 VC+ VC- IOUT+ IOUT-
****************************************
* Parameters
.PARAM GAIN=1E-4
.PARAM INEG=-.5
.PARAM IPOS=.5
****************************************
* Components
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS AOL_1_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT AOL_2_OPA2994 VC+ VC- IOUT+ IOUT-
****************************************
* Parameters
.PARAM GAIN=4.2E-4
.PARAM INEG=-8.51E-03
.PARAM IPOS=8.51E-03
****************************************
* Components
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS AOL_2_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT CL_SRC_OPA2994 VC+ VC- IOUT+ IOUT-
****************************************
* Parameters
.PARAM GAIN=1
.PARAM INEG=-4
.PARAM IPOS=4
****************************************
* Components
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS CL_SRC_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT CLAMP_AMP_HI_OPA2994 VC+ VC- VIN COM VO+ VO-
****************************************
* Parameters
.PARAM G=10
****************************************
* Components
GVO- COM VO- VALUE = {MAX(((V(VC-,COM)-V(VIN,COM))*G),0)}
GVO+ COM VO+ VALUE = {MAX(((V(VIN,COM)-V(VC+,COM))*G),0)}
.ENDS CLAMP_AMP_HI_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT CLAMP_AMP_LO_OPA2994 VC+ VC- VIN COM VO+ VO-
****************************************
* Parameters
.PARAM G=1
****************************************
* Components
GVO- COM VO- VALUE = {MAX(((V(VC-,COM)-V(VIN,COM))*G),0)}
GVO+ COM VO+ VALUE = {MAX(((V(VIN,COM)-V(VC+,COM))*G),0)}
.ENDS CLAMP_AMP_LO_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT CLAW_SRC_OPA2994 VC+ VC- IOUT+ IOUT-
****************************************
* Parameters
.PARAM GAIN=1
.PARAM INEG=-2
.PARAM IPOS=2
****************************************
* Components
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS CLAW_SRC_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT CLAWN_OPA2994 VC+ VC- IOUT+ IOUT-
****************************************
* Components
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =(0.000, 2.00E-05)(120.08, 5.30E-04)
.ENDS CLAWN_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT CLAWP_OPA2994 VC+ VC- IOUT+ IOUT-
****************************************
* Components
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =(0.000, 2.00E-05)(43.27, 3.06E-04)(54.32, 7.40E-04)
+(59.52 1.09E-03)(64.72 1.71E-03)(71.90, 3.14E-03)(80.15, 5.18E-03)
+(105.33, 1.26E-02)(114.35, 1.50E-02)
.ENDS CLAWP_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT FEMT_OPA2994 1 2
****************************************
* Parameters
.PARAM FLWF=1E-3
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM NLFF=10000
.PARAM NVRF=1000
.PARAM RNVF={1.184*PWR(NVRF,2)}
****************************************
* Models
.MODEL DVNF D (KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16)
****************************************
* Components
D1 7 0 DVNF 
D2 8 0 DVNF 
E1 3 6 7 8 {GLFF}
E2 6 4 5 0 10
G1 1 2 3 4 1E-6
I1 0 7 10E-3
I2 0 8 10E-3
R1 3 0 1E9 
R2 3 0 1E9 
R3 3 6 1E9 
R4 5 0 {RNVF} 
R5 5 0 {RNVF} 
R6 3 4 1E9 
R7 4 0 1E9 
.ENDS FEMT_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT GR_SRC_OPA2994 VC+ VC- IOUT+ IOUT-
****************************************
* Parameters
.PARAM GAIN=1
.PARAM INEG=-0.020
.PARAM IPOS=0.020
****************************************
* Components
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS GR_SRC_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT IQ_SRC_OPA2994 VC+ VC- IOUT+ IOUT-
****************************************
* Parameters
.PARAM GAIN=1E-3
****************************************
* Components
G1 IOUT+ IOUT- VALUE={IF((V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-))}
.ENDS IQ_SRC_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT LOWER_LEVEL_H1_OPA2994 1 2 3 4
****************************************
* Components
H_H1 3 4 VH_H1 1
VH_H1 1 2 0V
.ENDS LOWER_LEVEL_H1_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT LOWER_LEVEL_H2_OPA2994 1 2 3 4
****************************************
* Components
H_H2 3 4 VH_H2 -1
VH_H2 1 2 0V
.ENDS LOWER_LEVEL_H2_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT LOWER_LEVEL_H3_OPA2994 1 2 3 4
****************************************
* Components
H_H3 3 4 VH_H3 -1E3
VH_H3 1 2 0V
.ENDS LOWER_LEVEL_H3_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT LOWER_LEVEL_S2_OPA2994 1 2 3 4
****************************************
* Models
.MODEL _S2 VSWITCH (ROFF=1T RON=1M VOFF=100M VON=500M)
****************************************
* Components
RS_S2 1 2 1G 
S_S2 3 4 1 2 _S2
.ENDS LOWER_LEVEL_S2_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT LOWER_LEVEL_S3_OPA2994 1 2 3 4
****************************************
* Models
.MODEL _S3 VSWITCH (ROFF=0.99E12 RON=50 VOFF=400M VON=500M)
****************************************
* Components
RS_S3 1 2 1G 
S_S3 3 4 1 2 _S3
.ENDS LOWER_LEVEL_S3_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT LOWER_LEVEL_S4_OPA2994 1 2 3 4
****************************************
* Models
.MODEL _S4 VSWITCH (ROFF=0.99E12 RON=50 VOFF=400M VON=500M)
****************************************
* Components
RS_S4 1 2 1G 
S_S4 3 4 1 2 _S4
.ENDS LOWER_LEVEL_S4_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT LOWER_LEVEL_S5_OPA2994 1 2 3 4
****************************************
* Models
.MODEL _S5 VSWITCH (ROFF=0.99E12 RON=10M VOFF=0 VON=10M)
****************************************
* Components
RS_S5 1 2 1G 
S_S5 3 4 1 2 _S5
.ENDS LOWER_LEVEL_S5_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT LOWER_LEVEL_S6_OPA2994 1 2 3 4
****************************************
* Models
.MODEL _S6 VSWITCH (ROFF=0.99E12 RON=10M VOFF=0 VON=10M)
****************************************
* Components
RS_S6 1 2 1G 
S_S6 3 4 1 2 _S6
.ENDS LOWER_LEVEL_S6_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT LOWER_LEVEL_S7_OPA2994 1 2 3 4
****************************************
* Models
.MODEL _S7 VSWITCH (ROFF=0.99E12 RON=50 VOFF=400M VON=500M)
****************************************
* Components
RS_S7 1 2 1G 
S_S7 3 4 1 2 _S7
.ENDS LOWER_LEVEL_S7_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT LOWER_LEVEL_S8_OPA2994 1 2 3 4
****************************************
* Models
.MODEL _S8 VSWITCH (ROFF=0.99E12 RON=50 VOFF=400M VON=500M)
****************************************
* Components
RS_S8 1 2 1G 
S_S8 3 4 1 2 _S8
.ENDS LOWER_LEVEL_S8_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT LOWER_LEVEL_S9_OPA2994 1 2 3 4
****************************************
* Models
.MODEL _S9 VSWITCH (ROFF=0.99E12 RON=50 VOFF=400M VON=500M)
****************************************
* Components
RS_S9 1 2 1G 
S_S9 3 4 1 2 _S9
.ENDS LOWER_LEVEL_S9_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT LOWER_LEVEL_S10_OPA2994 1 2 3 4
****************************************
* Models
.MODEL _S10 VSWITCH (ROFF=0.99E12 RON=50 VOFF=400M VON=500M)
****************************************
* Components
RS_S10 1 2 1G 
S_S10 3 4 1 2 _S10
.ENDS LOWER_LEVEL_S10_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT LOWER_LEVEL_S11_OPA2994 1 2 3 4
****************************************
* Models
.MODEL _S11 VSWITCH (ROFF=0.99E12 RON=50 VOFF=.4 VON=.5)
****************************************
* Components
RS_S11 1 2 1G 
S_S11 3 4 1 2 _S11
.ENDS LOWER_LEVEL_S11_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT LOWER_LEVEL_S12_OPA2994 1 2 3 4
****************************************
* Models
.MODEL _S12 VSWITCH (ROFF=0.99E12 RON=50 VOFF=.4 VON=.5)
****************************************
* Components
RS_S12 1 2 1G 
S_S12 3 4 1 2 _S12
.ENDS LOWER_LEVEL_S12_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT OL_SENSE_OPA2994 COM SW+ OLN OLP
****************************************
* Components
GSW+ COM SW+ VALUE = {LIMIT((V(OLN,COM)-9M)*1E3,1,0)+LIMIT((V(OLP,COM)-9M)*1E3,1,0)}
.ENDS OL_SENSE_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT VCM_CLAMP_OPA2994 VIN+ VIN- IOUT- IOUT+ VP+ VP-
****************************************
* Parameters
.PARAM GAIN=1
****************************************
* Components
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-),V(VP+,VIN-))}
.ENDS VCM_CLAMP_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT VNSE_OPA2994 1 2
****************************************
* Parameters
.PARAM FLW=10
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM NLF=37.5
.PARAM NVR=11
.PARAM RNV={1.184*PWR(NVR,2)}
****************************************
* Models
.MODEL DVN D (KF={PWR(FLW,0.5)/1E11} IS=1.0E-16)
****************************************
* Components
D1 7 0 DVN 
D2 8 0 DVN 
E1 3 6 7 8 {GLF}
E2 6 4 5 0 10
E3 1 2 3 4 1
I1 0 7 10E-3
I2 0 8 10E-3
R1 3 0 1E9 
R2 3 0 1E9 
R3 3 6 1E9 
R4 5 0 {RNV} 
R5 5 0 {RNV} 
R6 3 4 1E9 
R7 4 0 1E9 
.ENDS VNSE_OPA2994
************************************************************************************************************************

************************************************************************************************************************
.SUBCKT ZO_SRC_OPA2994 VC+ VC- IOUT+ IOUT-
****************************************
* Parameters
.PARAM GAIN=90.91
.PARAM INEG=-17E4
.PARAM IPOS=17E4
****************************************
* Components
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS ZO_SRC_OPA2994
************************************************************************************************************************

